US07642264B2
N-[2-(2-Methoxy-ethoxy)-ethyl]-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.200 g, 0.409 mmol) by treatment with commercially available 2-(2-methoxy-ethoxy)-ethylamine [CAS-no. 31576-51-9] (0.244 mg, 2.04 mmol) in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.160 g, 68%) as a light yellow oil. MS (ISP) 572.2 [(M+H)+].

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.409 mmol, 0.200 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | 2-(2-methoxy-ethoxy)-ethylamine | 2.04 mmol, 0.244 mg | COCCOCCN | C5H13NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-(2-Methoxy-ethoxy)-ethyl]-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide | 0.160 g, 68% | COCCOCCNS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C29H28F3N3O4S
